.include NOR.sub
.include NOT.sub

.subckt OR x y out vdd gnd l=0.09u w_n=0.9u w_p=1.8u

xnor x y nor_out vdd gnd NOR lambda={l} width_N={w_n} width_P={w_p}
xinv nor_out out vdd gnd NOT lambda={l} width_N={w_n} width_P={w_p}

.ends OR